US08222260B2
2-Methylthio-6-anilinopurine
2-methylthio-6-chloropurine (10 g, 50 mmol), aniline (7.7 g, 63 mmol) and triethylamine (35 ml, 250 mmol) were refluxed in butanol (400 ml) for 2 h. Butanol was removed in vacuo and water (290 ml) added to the cooled residue. pH was adjusted to 8.0, the mixture was left at −16° C. overnight. Filtration and drying over phosphorus pentoxide in vacuo gave 10 g crude yellow-green product. The product was chromatographically purified (250 g silica, Fisons, chloroform); eluted with chloroform/methanol (97/3, v/v). Appropriate fractions were dried in vacuo, re-crystallised from ethanol with decolourisation by active carbon. After drying to constant weight over P2O5, yield 5.76 g, (46%), HPLC purity >98%. TLC: chloroform/methanol (9/1, v/v), no contaminants.

reactant | 2-methylthio-6-chloropurine | 50 mmol, 10 g | CSC1=NC(=C2NC=NC2=N1)Cl | C6H5ClN4S
reactant | aniline | 63 mmol, 7.7 g | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 250 mmol, 35 ml | C(C)N(CC)CC | C6H15N
solvent | butanol | 400 ml | C(CCC)O | C4H10O
product | 2-Methylthio-6-anilinopurine | CSC1=NC(=C2NC=NC2=N1)NC1=CC=CC=C1 | C12H11N5S
